US06166011
Potassium carbonate (1.79 g) was added to a solution of tert-butyl (cis)-3,5-dimethyl-1-piperazinecarboxylate (2.57 g) [see Preparation 5] in acetronitrile (10 ml). The reaction mixture was stirred at room temperature for 5 minutes, after which time N(2-bromoethyl) phthalimide (3.36 g) was added and the mixture was stirred for a further 4 hours. Sodium iodide (0.1 g) was added and the reaction mixture was heated to reflux for 18 hours. The mixture was then cooled and the solvent removed under reduced pressure. The residue was partitioned between ethyl acetate and water, the organic layer was separated, dried over magnesium sulphate and the solvent removed under reduced pressure. The crude product was purified by column chromatography on silica gel eluting with a solvent gradient of 4:1:0, changing to 0:95:5, by volume, hexane:ethyl acetate:0.88 aqueous ammonia solution. to afford tert-butyl (cis)-4-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-3,5-dimethyl-1-piperazinecarboxylate (0.94 g) as an oil.

reactant | Potassium carbonate | 1.79 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl (cis)-3,5-dimethyl-1-piperazinecarboxylate | 2.57 g | C[C@@H]1CN(C[C@@H](N1)C)C(=O)OC(C)(C)C | C11H22N2O2
reactant | N(2-bromoethyl) phthalimide | 3.36 g | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | Sodium iodide | 0.1 g | [I-].[Na+]
product | tert-butyl (cis)-4-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-3,5-dimethyl-1-piperazinecarboxylate | 0.94 g | O=C1N(C(C2=CC=CC=C12)=O)CCN1[C@@H](CN(C[C@@H]1C)C(=O)OC(C)(C)C)C | C21H29N3O4
